US03969393
37.5 g of the brominated product of m-tolylphenyl ether containing 26.3 g of 3-phenoxybenzyl bromide was mixed with 100 ml of toluene, and then a solution of 15.1 g of triethylamine in 30 ml of toluene was added dropwise thereto. After the additon, the mixture was maintained at 90° to 100°C for 1 hour while stirring and then cooled. The separated crystals were filtered out, washed with toluene and then dried under a reduced pressure to obtain 35.8 g of 3-phenoxybenzyl triethyl ammonium bromide (m.p. 160° - 163°C).

reactant | m-tolylphenyl ether | 26.3 g | C1(=C(C=CC=C1)C=1C=C(C=CC1)OC1=CC(=CC=C1)C1=C(C=CC=C1)C)C | C26H22O
reactant | 3-phenoxybenzyl bromide | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | triethylamine | 15.1 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-phenoxybenzyl triethyl ammonium bromide | 35.8 g | [Br-].O(C1=CC=CC=C1)C=1C=C(C[N+](CC)(CC)CC)C=CC1 | InChI=1S/C19H26NO.BrH/c1-4-20(5-2,6-3)16-17-11-10-14-19(15-17)21-18-12-8-7-9-13-18;/h7-15H,4-6,16H2,1-3H3;1H/q+1;/p-1
